US05843992
Ethyl (2S,3S)-3-diphenylmethylcarbamoyloxirane-2-carboxylate (Compound No. 2)
To a solution of (2S,3S)-3-ethoxycarbonyloxirane-2-carboxylic acid (8.01 g, 50.0 mmol.) in ethyl acetate (120 mL) was added N-hydroxysuccinimide (5.76 g, 50.0 mmol.) and then added N,N'-dicyclohexylcarbodiimide (5.75 g, 50.0 mmol) under chilling with ice. The resulting mixture was stirred at 5° C. for one hour, and to the mixture was a solution of aminodiphenylmethane (9.17 g, 50.0 mmol.) in ethyl acetate (30 mL). The mixture was stirred at 5° C. for one hour and then at room temperature for one hour. The resulting N,N'-dicyclohexylurea (DC-Urea) was removed by filtration, and the filtrate was washed successively with 1N hydrochloric acid, an aqueous sodium hydrogen carbonate saturated solution, and an aqueous sodium chloride saturated solution, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystalized from ethyl acetate--n-hexane, to give the desired compound as a white crystalline product (1.25 g, yield: 77%).

reactant | (2S,3S)-3-ethoxycarbonyloxirane-2-carboxylic acid | 50.0 mmol, 8.01 g | C(C)OC(=O)[C@@H]1[C@H](O1)C(=O)O | C6H8O5
reactant | N-hydroxysuccinimide | 50.0 mmol, 5.76 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 50.0 mmol, 5.75 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | aminodiphenylmethane | 50.0 mmol, 9.17 g | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | Ethyl (2S,3S)-3-diphenylmethylcarbamoyloxirane-2-carboxylate | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC(=O)[C@@H]1[C@H](O1)C(=O)OCC | C19H19NO4
